US03952031
2β-Azido-3α-hydroxy-5α-pregnane-11,20-dione
2α,3α-Epoxy-5α-pregnane-11,20-dione (500 mg) was dissolved in dimethylsulphoxide (25 ml) and sodium azide (1.5 g) added to the solution. Concentrated sulphuric acid (10 drops) was added and the mixture heated on a steam bath for 48 hours. The solution was poured into iced water (600 ml) and the precipitate extracted into ether (100 ml). The ether extract was washed with water (4 + 250 ml) and then saturated sodium bicarbonate solution (250 ml) and finally water (250 ml.). The organic solution was dried over anhydrous sodium sulphate and evaporated to a white foam which was purified by preparative T.L.C. using ethyl acetate/petrol (1/1) run twice. The main band gave title compound (290 mg;) as a foam, [α]D + 95° (c, 0.98).

reactant | 2α,3α-Epoxy-5α-pregnane-11,20-dione | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | sodium azide | 1.5 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 600 ml | O | H2O
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 2β-Azido-3α-hydroxy-5α-pregnane-11,20-dione | 290 mg | N(=[N+]=[N-])[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H31N3O3
